US05262390
Step B: 4-Isopropoxy-2-fluoroaniline
A stirred flask containing 350 mL of acetic acid was heated to 80°-85° C. under a nitrogen atmosphere. To this flask was added 39.10 g (0.700 mole) of powdered iron, and this mixture was stirred for one hour. A solution of 4-isopropoxy-2-fluoronitrobenzene in 250 mL was added to the mixture dropwise. Upon completion of addition, the reaction mixture was heated at 80°-85° C. for one hour. After being cooled below 40° C., the mixture was filtered, and the solvent was evaporated under reduced pressure, leaving a residue. This residue was dissolved in a mixture of water and diethyl ether. The organic layer was separated and was washed in succession with saturated aqueous solutions of sodium bicarbonate and sodium chloride. It was then dried over anhydrous magnesium sulfate, filtered through a short column of silica gel, and the solvent was evaporated under reduced pressure, leaving an impure residue which contained significant amounts of acetamide in addition to the desired product. This residue was suspended in 500 mL of 2N hydrochloric acid for one hour. The hydrochloric acid mixture was then extracted with diethyl ether, and the two phases were separated. Aqueous sodium hydroxide solution was added to the aqueous hydrochloride solution until it was basic. This basic solution was extracted with diethyl ether, and the extract was dried over anhydrous magnesium sulfate and filtered. After evaporation of the solvent under reduced pressure, the residue was recrystallized from diethyl ether/petroleum ether to yield 16.90 g of 4-isopropoxy-2-fluoroaniline as an oil which darkened on standing. The NMR spectrum was consistent with the proposed structure.

reactant | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
reactant | 4-isopropoxy-2-fluoronitrobenzene | C(C)(C)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C9H10FNO3
reactant | acetamide | C(C)(=O)N | C2H5NO
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | iron | 0.700 mole, 39.10 g | [Fe] | Fe
product | 4-Isopropoxy-2-fluoroaniline | C(C)(C)OC1=CC(=C(N)C=C1)F | C9H12FNO
